US04363909
By following the procedure of Example 2, but using (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (8 g) and 8-amino-3-methylisoquinoline (3.5 g) as the starting materials, (S)-3-[(3-methylisoquinol-8-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (4.1 g) is obtained in the form of pale yellow crystals, m.p.=156° C.

reactant | (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 8 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2
reactant | 8-amino-3-methylisoquinoline | 3.5 g | NC=1C=CC=C2C=C(N=CC12)C | C10H10N2
product | (S)-3-[(3-methylisoquinol-8-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 4.1 g | CC=1N=CC2=C(C=CC=C2C1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C21H19N3S
